data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_361970_1,[C:1](/[C:5]([C:3]([H:16])([H:17])[H:18])=[C:4](\[C:2]([H:13])([H:14])[H:15])[O:8][H:11])([O:6][H:9])([O:7][H:10])[H:12]>>[C:1](=[C:5](\[C:3]([H:16])([H:17])[H:18])[C:4]([C:2]([H:13])([H:14])[H:15])([O:7][H:10])[O:8][H:11])(\[O:6][H:9])[H:12],50.22258999996865
MR_439920_1,[C:1]([O:4][C:2]([H:12])([H:13])[H:14])([N:7]=[C:3]([O:5][H:8])[O:6][H:9])([H:10])[H:11]>>[C:1]([N:7][C:3]([O:4][C:2]([H:12])([H:13])[H:14])([O:5][H:8])[O:6][H:9])([H:10])[H:11],47.14783999999142
MR_265257_0,[C:1](=[C:2]([H:7])[H:8])([O:3][O:4][H:5])[H:6]>>[C:1](=[C:2]([H:7])[H:8])([O:4][O:3][H:5])[H:6],68.59265249999439
MR_631633_1,[C:1]1([N:3]([O:6][H:8])[O:7][H:9])([H:10])[C:4]([C:2]([H:12])([H:13])[H:14])=[C:5]1[H:11]>>[C:1]1([H:10])=[C:5]([H:11])[C:4]1([C:2]([H:12])([H:13])[H:14])[N:3]([O:6][H:8])[O:7][H:9],54.51155250001918
MR_74966_1,[C:1](/[C:2](=[C:4](\[N:7]=[C:5](\[N:3]([H:9])[H:10])[H:12])[H:11])[O:6][H:8])([H:13])([H:14])[H:15]>>[C:1]([C:2]1([O:6][H:8])[C:4]([H:11])=[N:7][C:5]1([N:3]([H:9])[H:10])[H:12])([H:13])([H:14])[H:15],42.34558249998841
MR_122521_0,[C:1](/[N:5]=[N:4]/[C:2](=[C:3]([H:10])[H:11])[H:6])([H:7])([H:8])[H:9]>>[C:1]([N:5]1[C:3]([H:10])([H:11])[C:2]([H:6])=[N:4]1)([H:7])([H:8])[H:9],42.29914749999864
MR_308641_0,[C:1](/[C:4](=[C:6](\[N:8]=[C:5]([C:2]([H:14])([H:15])[H:18])[C:3]([H:16])([H:17])[H:19])[H:10])[O:7][H:9])([H:11])([H:12])[H:13]>>[C:1]([C:4]1([O:7][H:9])[C:5]([C:2]([H:14])([H:15])[H:18])([C:3]([H:16])([H:17])[H:19])[N:8]=[C:6]1[H:10])([H:11])([H:12])[H:13],45.35946500001231
MR_29938_1,[C:1](/[C:3]([N:6]([H:13])[H:14])=[N:8]\[C:7](=[C:2]([N:4]([H:10])[H:11])[N:5]([H:9])[H:12])[H:15])([H:16])([H:17])[H:18]>>[C:1]([C:3]1([N:6]([H:13])[H:14])[C:2]([N:4]([H:10])[H:11])([N:5]([H:9])[H:12])[C:7]([H:15])=[N:8]1)([H:16])([H:17])[H:18],49.17592000000738
MR_658112_0,[C:1]([C:2](/[N:8]=[C:5](\[O:7][H:10])[H:17])([H:15])[H:16])([N:3]([O:6][H:9])[H:11])([N:4]([H:13])[H:14])[H:12]>>[C:1]1([N:4]([H:13])[H:14])([H:12])[C:2]([H:15])([H:16])[N:8]1[C:5]([N:3]([O:6][H:9])[H:11])([O:7][H:10])[H:17],55.34989250000706
MR_599391_2,[C:1]([O:3][H:6])([N:5][N:4][N:2]([H:7])[H:8])([H:9])[H:10]>>[C:1](=[N:5][N:4]([N:2]([H:7])[H:8])[O:3][H:6])([H:9])[H:10],68.65728500000955
MR_232842_1,[C:1]1([N:5]([H:9])[H:10])([O:6][H:8])[C:2]([H:12])([H:13])[C:4]1([C:3]([H:15])([H:16])[H:17])[N:7]([H:11])[H:14]>>[C:1]([C:2]([H:12])([H:13])[H:14])(/[C:4]([C:3]([H:15])([H:16])[H:17])=[N:7]/[H:11])([N:5]([H:9])[H:10])[O:6][H:8],47.45029499994118
MR_101810_1,[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([O:4][O:5][H:6])([H:7])[H:8]>>[C:1]([O:4][C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([O:5][H:6])([H:7])[H:8],67.89047999998374
MR_222542_0,[C:1]([N:2](/[C:4](=[N:5]\[N:3]([H:7])[H:8])[H:9])[H:6])([H:10])([H:11])[H:12]>>[C:1]([N:5]([N:3]([H:7])[H:8])/[C:4](=[N:2]/[H:6])[H:9])([H:10])([H:11])[H:12],72.10037750000204
MR_73805_0,[C@:1]([C:2]1([H:11])[C:3]([H:14])([H:15])[O:6]1)([C:4]([N:5]([H:12])[H:13])=[O:8])([O:7][H:9])[H:10]>>[C:1]([C:2]1([H:11])[C:3]([H:14])([H:15])[O:6]1)([C:4]([N:5]([H:12])[H:13])=[O:8])([O:7][H:9])[H:10],68.27262750001765
MR_170065_0,[C:1]([O:3]/[N:5]=[C:2](\[O:4][H:6])[H:7])([H:8])([H:9])[H:10]>>[C:1]([O:3]/[C:2]([O:4][H:6])=[N:5]/[H:7])([H:8])([H:9])[H:10],28.96226249999927
MR_248807_0,[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])([N:4]([C:5]([O:7][H:9])[N:8][N:6]([H:12])[H:13])[H:10])[H:11]>>[C:1]([C:2]([H:14])([H:16])[H:17])([C:3]([H:15])([H:18])[H:19])([N:8](/[C:5](=[N:4]/[H:10])[O:7][H:9])[N:6]([H:12])[H:13])[H:11],60.44644749998042
MR_216212_1,[C@:1]([C:4]([H:19])([H:20])[H:21])([N:5]([C:2]([H:13])([H:14])[H:15])/[C:7](=[N:8]\[C:3]([H:16])([H:17])[H:18])[H:12])([N:6]([H:10])[H:11])[H:9]>>[C:1]([C:4]([H:19])([H:20])[H:21])([N:6]([H:10])[H:11])([N:8]([C:3]([H:16])([H:17])[H:18])/[C:7](=[N:5]/[C:2]([H:13])([H:14])[H:15])[H:12])[H:9],51.40228999998641
MR_64823_0,[C:1]([C:2]([O:7][C:4]([C:3]([H:15])([H:16])[H:17])([C:5](=[C:6]([H:18])[H:19])[H:14])[O:9][H:10])([H:12])[H:13])(=[O:8])[H:11]>>[C:1]([C:2]([O:7][C:4]([C:3]([H:15])([H:16])[H:17])=[O:9])([H:12])[H:13])([C:5](=[C:6]([H:18])[H:19])[H:14])([O:8][H:10])[H:11],47.98680750001338
MR_341828_0,[C:1](\[C:2](=[C:5]([H:13])[H:14])[O:6][H:8])([N:4]([H:11])[H:12])=[N:7]/[N:3]([H:9])[H:10]>>[C:1]1([N:4]([H:11])[H:12])=[C:2]([O:6][H:8])[C:5]([H:13])([H:14])[N:7]1[N:3]([H:9])[H:10],52.07371500000335
MR_266777_2,[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])([C:6]([C:2]([H:14])([H:15])[H:16])(/[C:5](=[N:7]/[H:12])[N:8]([H:10])[H:13])[H:11])[H:9]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:20])([H:21])[H:22])([C:6]([C:2]([H:14])([H:15])[H:16])=[C:5]([N:7]([H:11])[H:12])[N:8]([H:10])[H:13])[H:9],65.15583500003956
MR_331460_0,[C:1]([O:4][C:2]([H:11])([H:12])[H:13])(/[N:6]=[N:5]/[N:3]([H:7])[H:8])([H:9])[H:10]>>[C:1](=[N:6][N:5]([N:3]([H:7])[H:8])[O:4][C:2]([H:11])([H:12])[H:13])([H:9])[H:10],64.82012249999542
